US09024032B2
6.0 g (16.3 mmol) 5-(benzyloxy)-1-biphenyl-3-yl-2-methylpyridin-4(1H)-one was suspended in 150 ml 4 N aq HCl. The reaction mixture was heated at 140° C. for 18 h, then cooled to rt, concentrated in vacuo, suspended in CH2Cl2, and collected by filtration to give 1-biphenyl-3-yl-5-hydroxy-2-methylpyridin-4(1H)-one. LCMS (M+H)+=278.2.

reactant | 5-(benzyloxy)-1-biphenyl-3-yl-2-methylpyridin-4(1H)-one | 16.3 mmol, 6.0 g | C(C1=CC=CC=C1)OC=1C(C=C(N(C1)C=1C=C(C=CC1)C1=CC=CC=C1)C)=O | C25H21NO2
solvent | HCl | 4 N, 150 ml | Cl | ClH
product | 1-biphenyl-3-yl-5-hydroxy-2-methylpyridin-4(1H)-one | C1(=CC(=CC=C1)N1C(=CC(C(=C1)O)=O)C)C1=CC=CC=C1 | C18H15NO2
